** sch_path: /foss/designs/PhaseInterpolator/8xPI_top/tb_8xpi_linearity_integration.sch
**.subckt tb_8xpi_linearity_integration
x1 vdd v4 v3 v2 v1 v0 vinI vinIB vout vcont vss 8xPI_top
Vin3 vinI GND dc 0 ac 0 pulse(0, 1.2, 0, 25p, 25p, 225p, 500p)
Vin5 vinIB GND dc 0 ac 0 pulse(0, 1.2, 250p, 25p, 25p, 225p, 500p )
x2 vdd vss vss vss vss vss vinI vinIB vout8i vcont vss 8xPI_top
Vdd9 v1 VSS dc 0 ac 0 pulse(0, 1.2, 5n, 25p, 25p, 5n, 10n)
Vdd10 v2 VSS dc 0 ac 0 pulse(0, 1.2, 10n, 25p, 25p, 10n, 20n)
Vdd11 v0 VSS dc 0 ac 0 pulse(0, 1.2, 2.5n, 25p, 25p, 2.5n, 5n)
Vdd1 v3 VSS dc 0 ac 0 pulse(0, 1.2, 20n, 25p, 25p, 20n, 40n)
Vdd2 v4 VSS dc 0 ac 0 pulse(0, 1.2, 40n, 25p, 25p, 40n, 80n)
Vdd3 vdd GND 1.2
Vdd4 vcont GND 0.9
Vdd5 vss GND 0
**** begin user architecture code



* Circuit Parameters
.param vdd = 1.2
.param vss = 0.0
.param a=0
.param b=0
.param c=0
.param d=1
.param Tclk = 500P
.options TEMP = 27.0

* Include Models
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib cornerMOSlv.lib mos_tt


* OP Parameters & Singals to save
.save V(vout) V(vout8i) V(vinI) V(vinIB) V(x1.vsq[2]) V(x1.vsq[1]) V(x1.vsq[0]) V(x1.vst[7]) V(x1.vst[6]) V(x1.vst[5]) V(x1.vst[4]) V(x1.vst[3]) V(x1.vst[2]) V(x1.vst[1]) V(x1.vstq[7]) V(x1.vstq[6]) V(x1.vstq[5]) V(x1.vstq[4]) V(x1.vstq[3]) V(x1.vstq[2]) V(x1.vstq[1]) V(x1.vi) V(x1.vib) V(x1.vq) V(x1.vqb)

*Simulations
.control
*set output_path = tb_linearity_8xpi/
	tran 5PS 80NS
	*setplot tran1
	*plot v0 v1+1.5 v0_st+3 v6_st+4.5 Vout+6 Vout8I+7.5 ylabel vout xlabel vin
	display
	set filetype = ascii
        write tran_linearity_integration.raw
	*V(vout) V(vout8i) V(vinI) V(vinIB) V(@x1.vsq[2]) V(x1.vst[7]) V(x1.vstq[7]) V(x1.x1.vini) V(x1.x1.vinib) V(x1.x1.vinq) V(x1.x1.vinqb)
	*write {$output_path}tran_linearity_termoless.raw V(Vout) V(Vout8I) V(vinI) V(VoutI1) V(VoutI2) V(VoutQ1) V(VoutIB1) V(VoutQB1)
.endc
.end

**** end user architecture code
**.ends

* expanding   symbol:  8xPI_top.sym # of pins=7
** sym_path: /foss/designs/PhaseInterpolator/8xPI_top/8xPI_top.sym
** sch_path: /foss/designs/PhaseInterpolator/8xPI_top/8xPI_top.sch
.subckt 8xPI_top VDD VS[4] VS[3] VS[2] VS[1] VS[0] VINI VINIB VOUT VCONT VSS
*.ipin VINI
*.ipin VINIB
*.ipin VCONT
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[4],VS[3],VS[2],VS[1],VS[0]
x1 VI VIB VQ VQB VSQ[1] VSQ[0] VSTQ[7] VSTQ[6] VSTQ[5] VSTQ[4] VSTQ[3] VSTQ[2] VSTQ[1] VSQ[2] VOUT VDD VSS 8xPI
x2 VDD VINI VCONT VINIB VSS VQ VIB VQB VI 2to4
x3 VST[7] VST[6] VST[5] VST[4] VST[3] VST[2] VST[1] VS[2] VS[1] VS[0] VDD VSS 3to7_deco_v2
x4 VDD VSQ[2] VSQ[1] VSQ[0] VS[4] VS[3] VSS VSTQ[7] VSTQ[6] VSTQ[5] VSTQ[4] VSTQ[3] VSTQ[2] VSTQ[1] VST[7] VST[6] VST[5] VST[4]
+ VST[3] VST[2] VST[1] 8xPI_logic
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/8xPI/8xPI.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/8xPI/8xPI.sym
** sch_path: /foss/designs/PhaseInterpolator/8xPI/8xPI.sch
.subckt 8xPI VINI VINIB VINQ VINQB VS[1] VS[0] VST[7] VST[6] VST[5] VST[4] VST[3] VST[2] VST[1] VST[0] VOUT VDD VSS
*.ipin VINI
*.ipin VINQ
*.ipin VINIB
*.ipin VINQB
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[1],VS[0]
*.ipin VST[7],VST[6],VST[5],VST[4],VST[3],VST[2],VST[1],VST[0]
x1[7] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[7] MUX_4_1
x1[6] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[6] MUX_4_1
x1[5] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[5] MUX_4_1
x1[4] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[4] MUX_4_1
x1[3] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[3] MUX_4_1
x1[2] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[2] MUX_4_1
x1[1] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[1] MUX_4_1
x1[0] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[0] MUX_4_1
x2 VDD net2 net1 VSS inv_PI
x1 VDD VOUT net2 VSS buff_PI_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/2to4.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/2to4/2to4.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/2to4.sch
.subckt 2to4 VDD VINI VCONT VINIB VSS VQ VIB VQB VI
*.ipin VCONT
*.ipin VINI
*.opin VIB
*.opin VQ
*.ipin VINIB
*.opin VI
*.opin VQB
*.iopin VDD
*.iopin VSS
x1 VDD VQB VQ VCONT net5 net3 VSS dcvsl_variable
x2 VDD VIB net1 VSS buff_PI_d16
x3 VDD VI net2 VSS buff_PI_d16
x4 VDD net1 VINI VSS inv_PI
x5 VDD net2 VINIB VSS inv_PI
x6 VDD net3 net4 VSS buff_PI_d16
x7 VDD net4 VINIB VSS inv_PI
x8 VDD net5 net6 VSS buff_PI_d16
x9 VDD net6 VINI VSS inv_PI
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/BinarytoThermo/3to7_deco_v2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/BinarytoThermo/3to7_deco_v2.sym
** sch_path: /foss/designs/PhaseInterpolator/BinarytoThermo/3to7_deco_v2.sch
.subckt 3to7_deco_v2 ST[7] ST[6] ST[5] ST[4] ST[3] ST[2] ST[1] S[2] S[1] S[0] VDD VSS
*.opin ST[7],ST[6],ST[5],ST[4],ST[3],ST[2],ST[1]
*.ipin S[2],S[1],S[0]
*.iopin VDD
*.iopin VSS
x1 VDD net3 S[2] VSS inv
x2 VDD net2 S[1] VSS inv
x3 VDD net1 S[0] VSS inv
x4 VDD net1 net2 net3 ST[1] VSS nor_x3_custom
x5 VDD net2 ST[2] net3 VSS nor_custom
x6 VDD net5 ST[3] net3 VSS nor_custom
x7 VDD ST[4] net3 VSS inv
x8 VDD ST[5] net4 net3 VSS nand_custom
x9 VDD ST[6] net2 net3 VSS nand_custom
x11 VDD net5 net2 net1 VSS and_custom
x12 VDD net1 net4 net2 VSS or_custom
x10 VDD ST[7] net1 net2 net3 VSS nand_x3_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/8xPI_logic/8xPI_logic.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/8xPI_logic/8xPI_logic.sym
** sch_path: /foss/designs/PhaseInterpolator/8xPI_logic/8xPI_logic.sch
.subckt 8xPI_logic VDD SQ[2] SQ[1] SQ[0] S[4] S[3] VSS STQ[7] STQ[6] STQ[5] STQ[4] STQ[3] STQ[2] STQ[1] ST[7] ST[6] ST[5] ST[4]
+ ST[3] ST[2] ST[1]
*.ipin S[4],S[3]
*.iopin VSS
*.opin STQ[7],STQ[6],STQ[5],STQ[4],STQ[3],STQ[2],STQ[1]
*.ipin ST[7],ST[6],ST[5],ST[4],ST[3],ST[2],ST[1]
*.iopin VDD
*.opin SQ[2],SQ[1],SQ[0]
x1 VDD net1 S[4] VSS inv
x2 VDD SQ[1] net1 VSS inv
x3 VDD S[3] VSS SQ[0] S[4] xor_custom
x4 VDD net2 S[3] VSS inv
x5 VDD SQ[2] net2 VSS inv
x6[6] VDD SCb[7] Sbuff[3] VSS inv
x6[5] VDD SCb[6] Sbuff[3] VSS inv
x6[4] VDD SCb[5] Sbuff[3] VSS inv
x6[3] VDD SCb[4] Sbuff[3] VSS inv
x6[2] VDD SCb[3] Sbuff[3] VSS inv
x6[1] VDD SCb[2] Sbuff[3] VSS inv
x6[0] VDD SCb[1] Sbuff[3] VSS inv
x7[6] VDD SC[7] SCb[7] VSS inv
x7[5] VDD SC[6] SCb[6] VSS inv
x7[4] VDD SC[5] SCb[5] VSS inv
x7[3] VDD SC[4] SCb[4] VSS inv
x7[2] VDD SC[3] SCb[3] VSS inv
x7[1] VDD SC[2] SCb[2] VSS inv
x7[0] VDD SC[1] SCb[1] VSS inv
x1[6] VDD ST[7] VSS STQ[7] SC[7] xor_custom
x1[5] VDD ST[6] VSS STQ[6] SC[6] xor_custom
x1[4] VDD ST[5] VSS STQ[5] SC[5] xor_custom
x1[3] VDD ST[4] VSS STQ[4] SC[4] xor_custom
x1[2] VDD ST[3] VSS STQ[3] SC[3] xor_custom
x1[1] VDD ST[2] VSS STQ[2] SC[2] xor_custom
x1[0] VDD ST[1] VSS STQ[1] SC[1] xor_custom
x6 VDD Sbuff[3] S[3] VSS buff_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sch
.subckt MUX_4_1 VINA VINB VDD VOUT VS[1] VS[0] VINC VSS VIND VST
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin VINA
*.ipin VINB
*.ipin VINC
*.ipin VIND
*.ipin VS[1],VS[0]
*.ipin VST
x3 VDD VINC net2 VS[1] VIND VSS MUX_2_1
x4 VDD VINA net1 VS[0] VINB VSS MUX_2_1
x5 VDD net1 VOUT VST net2 VSS MUX_2_1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sch
.subckt buff_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_PI_d2
x8 VDD net2 net1 VSS inv_PI_d4
x9 VDD net3 net2 VSS inv_PI_d8
x10 VDD VOUT net3 VSS inv_PI_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/dcvsl_variable.sym # of pins=7
** sym_path: /foss/designs/PhaseInterpolator/2to4/dcvsl_variable.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/dcvsl_variable.sch
.subckt dcvsl_variable VDD VOUTN VOUTP CTRL CLKN CLKP VSS
*.iopin VSS
*.ipin CLKP
*.ipin CLKN
*.iopin VDD
*.ipin CTRL
*.opin VOUTP
*.opin VOUTN
XM1 VOUTDN CLKP VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=33
XM2 VOUTDP CLKN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=33
XM3 net1 CTRL VOUTDN VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM4 net2 CTRL VOUTDP VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM6 VOUTDP net1 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=10
XM5 VOUTDN net2 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=10
XM7 VOUTDN VSS VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=20
XM8 VOUTDP VSS VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=20
XM10 CTRL VOUTDP CTRL VDD sg13_lv_pmos w=1u l=0.13u ng=1 m=36
XM9 CTRL VOUTDN CTRL VDD sg13_lv_pmos w=1u l=0.13u ng=1 m=36
x2 VDD VOUTP VOUTDP VSS buff_PI_d16
x3 VDD VOUTN VOUTDN VSS buff_PI_d16
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nor_x3_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_x3_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_x3_custom.sch
.subckt nor_x3_custom VDD A B C OUT VSS
*.iopin VDD
*.iopin VSS
*.ipin B
*.ipin C
*.opin OUT
*.ipin A
XM1 OUT A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT C net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM3 OUT B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 net1 B net2 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM5 net2 A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM6 OUT C VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nor_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nor_custom.sch
.subckt nor_custom VDD A OUT B VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.ipin B
*.opin OUT
XM1 OUT A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT B net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM3 OUT B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 net1 A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sch
.subckt nand_custom VDD OUT A B VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.ipin B
*.opin OUT
XM1 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM3 net1 B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/and_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/and_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/and_custom.sch
.subckt and_custom VDD OUT A B VSS
*.ipin A
*.iopin VDD
*.opin OUT
*.iopin VSS
*.ipin B
x1 VDD OUT net1 VSS inv
x2 VDD net1 A B VSS nand_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/or_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/or_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/or_custom.sch
.subckt or_custom VDD A OUT B VSS
*.iopin VDD
*.iopin VSS
*.opin OUT
*.ipin A
*.ipin B
x1 VDD A net1 B VSS nor_custom
x2 VDD OUT net1 VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_x3_custom.sch
.subckt nand_x3_custom VDD OUT A B C VSS
*.ipin A
*.ipin B
*.ipin C
*.iopin VSS
*.iopin VDD
*.opin OUT
XM2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM3 OUT C VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM4 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM5 net1 B net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM6 net2 C VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/xor_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/xor_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/xor_custom.sch
.subckt xor_custom VDD B VSS VOUT A
*.ipin A
*.ipin B
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1 VDD Bb B VSS inv
x2 B VOUT A Bb inv
x3 A Bb B VOUT net1 net2 tg_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sch
.subckt buff_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv
x8 VDD net2 net1 VSS inv_d2
x9 VDD net3 net2 VSS inv_d4
x10 VDD VOUT net3 VSS inv_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sch
.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.opin VOUT
*.ipin VINA
*.ipin VINB
*.ipin VS
*.iopin VDD
*.iopin VSS
x1 VOUT net1 VS net2 VDD VSS tg_custom
x2 VOUT VS net1 net3 VDD VSS tg_custom
x3 VDD net1 VS VSS inv
x4 VDD net2 VINA VSS inv_PI
x5 VDD net3 VINB VSS inv_PI
x6[3] VOUT VSS VDD net2 VDD VSS tg_custom
x6[2] VOUT VSS VDD net2 VDD VSS tg_custom
x6[1] VOUT VSS VDD net2 VDD VSS tg_custom
x6[0] VOUT VSS VDD net2 VDD VSS tg_custom
x7[3] VOUT VSS VDD net3 VDD VSS tg_custom
x7[2] VOUT VSS VDD net3 VDD VSS tg_custom
x7[1] VOUT VSS VDD net3 VDD VSS tg_custom
x7[0] VOUT VSS VDD net3 VDD VSS tg_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sch
.subckt inv_PI_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI
x1[0] VDD VOUT VIN VSS inv_PI
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sch
.subckt inv_PI_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d2
x1[0] VDD VOUT VIN VSS inv_PI_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sch
.subckt inv_PI_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d4
x1[0] VDD VOUT VIN VSS inv_PI_d4
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sch
.subckt inv_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d8
x1[0] VDD VOUT VIN VSS inv_PI_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.iopin VIN
*.iopin VSN
*.iopin VOUT
*.iopin VSP
*.iopin VBN
*.iopin VBP
XM1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 VOUT VSP VIN VBP sg13_lv_pmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sch
.subckt inv_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv
x1[0] VDD VOUT VIN VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sch
.subckt inv_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d2
x1[0] VDD VOUT VIN VSS inv_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sch
.subckt inv_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d4
x1[0] VDD VOUT VIN VSS inv_d4
.ends

.GLOBAL GND
.end
